US09216968B2
Methyl 2-amino-3-[(methoxyacetyl)amino]benzoate
To a solution of methyl 2,3-diaminobenzoate (3.0 g) in THF (50 mL) was added N,N-diisopropylethylamine (4.0 mL). The solution was stirred under ice-cooling, methoxyacetyl chloride (1.81 mL) in THF (10 mL) was added dropwise slowly, and it was stirred for 3 hours at the same temperature. To the reaction mixture was added saturated aqueous sodium bicarbonate, and THF was removed under reduced pressure. To the residue was added saturated aqueous sodium bicarbonate, and it was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified on silica gel column chromatography to obtain the titled compound (3.60 g) as pale yellow powder.

reactant | methyl 2,3-diaminobenzoate | 3.0 g | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | N,N-diisopropylethylamine | 4.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methoxyacetyl chloride | 1.81 mL | COCC(=O)Cl | C3H5ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 2-amino-3-[(methoxyacetyl)amino]benzoate | 3.60 g | NC1=C(C(=O)OC)C=CC=C1NC(COC)=O | C11H14N2O4
